US07754737B2
Step 1. (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1,5-dimethoxypentyl)piperidine-1-carboxylate
To a mixture of (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-piperidine-1-carboxylate (0.1874 g, 0.45 mmol, 1.0 equiv) and 60% NaH in oil (0.345 g, 8.6 mmol, 19 equiv) in THF (15 mL) was added iodomethane (1.195 g, 8.4 mmol, 18.5 equiv). The resulting mixture was heated at 70° C. for 16 h and then quenched with water, extracted with EtOAc and dried over Na2SO4. After the solvent was removed, the crude (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1,5-dimethoxypentyl)piperidine-1-carboxylate (0.3175 g) was used in the next step without further purification. LC-MS (3 min) tR=2.44 min m/z 450, 448 (M+Na+), 426 (M+H+), 340, 338, 294.

reactant | (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1-hydroxy-5-methoxypentyl)-piperidine-1-carboxylate | 0.45 mmol, 0.1874 g, 1.0 equiv | ClC=1C=C(C=CC1)[C@@](CCCCOC)(O)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C22H34ClNO4
reactant | NaH | [H-].[Na+]
reactant | iodomethane | 8.4 mmol, 1.195 g, 18.5 equiv | IC | CH3I
solvent | THF | 15 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 3-((S)-1-(3-chlorophenyl)-1,5-dimethoxypentyl)piperidine-1-carboxylate | ClC=1C=C(C=CC1)[C@@](CCCCOC)(OC)[C@H]1CN(CCC1)C(=O)OC(C)(C)C | C23H36ClNO4
